Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left pelvic pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o fall while at work. Immediate left hip pain. No HS no 
LOC. unable to ambulate. Went to outside hospital where xrays 
showed pelvice hematoma and pubic rami fracture. Transferred to 
___ for evaluation. On arrival complaints of left hip and 
groin pain. 

 
Past Medical History:
PMH: PVD, HTN, HL, alcoholism ___ sober), tobacco use, hip and 
thigh injury

PSH: prior RLE angio with popliteal stent

 
Social History:
___
Family History:
NC
 
Physical Exam:
Left lower extremity:
Skin intact
Soft, non-tender thigh and leg
Full, pain with active and passive ROM of the hip, no pain with 
log roll 
___ fire
+SILT SPN/DPN/TN/saphenous/sural distributions
___ pulses, foot warm and well-perfused

 
Pertinent Results:
___ 01:40AM   ___ PTT-36.8* ___
___ 12:35AM   GLUCOSE-95 UREA N-18 CREAT-1.0 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-26 ANION GAP-11
___ 12:35AM   estGFR-Using this
___ 12:35AM   CALCIUM-8.9 PHOSPHATE-3.5 MAGNESIUM-1.9
___ 12:35AM   WBC-8.5 RBC-4.53* HGB-13.6* HCT-41.0 MCV-91 
MCH-30.0 MCHC-33.1 RDW-13.2
___ 12:35AM   NEUTS-75.1* ___ MONOS-5.0 EOS-1.0 
BASOS-0.5
___ 12:35AM   PLT COUNT-193
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have an LC1 pelvic fracture and was admitted to the 
orthopedic surgery service.  The patient and healthcare team 
decided to treat this nonoperatively. The patient was initially 
given IV fluids and IV pain medications, and progressed to a 
regular diet and oral medications by POD#1. The patient was 
given anticoagulation per routine.  The patients home 
medications were continued throughout this hospitalization.  The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is WBAT in the bilateral lower 
extremities, and will be discharged on lovenox for DVT 
prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.
 
Medications on Admission:
lisinopril
simvastatin
tramadol  

 
Discharge Medications:
1. Lisinopril 10 mg PO DAILY 
2. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q3-6h Disp #*40 Tablet 
Refills:*0
3. Acetaminophen 650 mg PO Q4H 
4. Enoxaparin Sodium 40 mg SC QPM Duration: 11 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left LC1 pelvic fracture and nonunion of the L greater 
trochanter

 
Discharge Condition:
At the time of discharge, Mr. ___ was ambulating with assist, 
tolerating a regular diet and pain was controlled without 
nausea.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- WBAT BLE
 
Followup Instructions:
___